US06703347B2
A solution of ethyl 3-[2-(2,2-diethylpropyl)benzoxazol-5-yl]propenoate (0.500 g, 0.00174 mol) in ethanol (30 ml) was hydrogenated at 4.0 bar (4×105 Nm−2) over 5% Pd on C for 4 hours at room temperature and then at 5.5 bar (5.5×105 Nm−2) for 6 hours. The catalyst was removed by filtration and the filtrate was evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with ethyl acetate:dichloromethane 3:97, to give ethyl 3-[2-(2,2-dimethylpropyl)benzoxazol-5-yl]propanoate (0.465 g).

reactant | ethyl 3-[2-(2,2-diethylpropyl)benzoxazol-5-yl]propenoate | 0.00174 mol, 0.500 g | C(C)C(CC=1OC2=C(N1)C=C(C=C2)C=CC(=O)OCC)(C)CC | C19H25NO3
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd | [Pd] | Pd
product | ethyl 3-[2-(2,2-dimethylpropyl)benzoxazol-5-yl]propanoate | 0.465 g | CC(CC=1OC2=C(N1)C=C(C=C2)CCC(=O)OCC)(C)C | C17H23NO3
